US07452911B2
6c 2-(5-ethynyl-indol-1-yl)-ethanol
Under an N2 atmosphere 29 g (91.8 mmol) TBAF are added to a solution of 21.5 g (83.5 mmol) 2-(5-trimethylsilanylethynyl-indol-1-yl)-ethanol in 500 mL THF and the reaction mixture is stirred for 1.5 h at RT. The mixture is evaporated down i.vac., the residue is taken up in 300 mL EtOAc, the organic phase is washed twice with in each case 200 mL water and once with 200 mL saturated NaCl solution and dried over Na2SO4. After the desiccant and solvent have been eliminated the desired product is obtained in the form of a brown oil.

reactant | TBAF | 91.8 mmol, 29 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 2-(5-trimethylsilanylethynyl-indol-1-yl)-ethanol | 83.5 mmol, 21.5 g | C[Si](C)(C)C#CC=1C=C2C=CN(C2=CC1)CCO | C15H19NOSi
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-(5-ethynyl-indol-1-yl)-ethanol | C(#C)C=1C=C2C=CN(C2=CC1)CCO | C12H11NO
